US07109186B2
Compound 810: 4-{4-[(3,4-Dichloro-benzyl)-methoxy-carbamoyl]-3-hydroxy-2-oxo-2,5-dihydro-pyrrol-1-yl}-butyric acid
To a solution of 4-amino butyric acid (0.093 g, 0.90 mmol) in acetic acid (0.5 mL) at 55° C. was added paraformaldehyde (0.027 g, 0.90 mmol). After stirring for 10 min, 3-[(3,4-dichloro-benzyl)-methoxy-carbamoyl]-2-hydroxy-acrylic acid methyl ester (0.2978 g, 0.89 mmol) was added and the mixture was stirred at 55° C. for 1 h. The clear yellow solution was cooled, concentrated and purified by preparative HPLC (C18, ODS-A, S-75 μm, 10%–40% acetonitrile/water/0.5% HCl) to give the title compound as a yellow foam (0.129 g, 34% yield). HRMS (M+H) calcd for C17H19N2Cl2O6: 417.06203; found: 417.0607.

reactant | 4-amino butyric acid | 0.90 mmol, 0.093 g | NCCCC(=O)O | C4H9NO2
reactant | paraformaldehyde | 0.90 mmol, 0.027 g | C=O | CH2O
reactant | 3-[(3,4-dichloro-benzyl)-methoxy-carbamoyl]-2-hydroxy-acrylic acid methyl ester | 0.89 mmol, 0.2978 g | COC(C(=CC(N(OC)CC1=CC(=C(C=C1)Cl)Cl)=O)O)=O | C13H13Cl2NO5
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 4-{4-[(3,4-Dichloro-benzyl)-methoxy-carbamoyl]-3-hydroxy-2-oxo-2,5-dihydro-pyrrol-1-yl}-butyric acid | 0.129 g, 34% yield | ClC=1C=C(CN(C(=O)C2=C(C(N(C2)CCCC(=O)O)=O)O)OC)C=CC1Cl | C17H18Cl2N2O6
